US06586441B2
5-Bromo-6-furan-2-yl-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine
From 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine and N-phenylethylenediamine in dioxane. ES-MS m/e (%): 376 (M{81Br}+H+, 100), 374 (M{79Br}+H+, 95).

reactant | 5-bromo-4-furan-2-yl-6-methanesulfinyl-pyrimidin-2-yl-amine | BrC=1C(=NC(=NC1S(=O)C)N)C=1OC=CC1 | C9H8BrN3O2S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 5-Bromo-6-furan-2-yl-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine | BrC=1C(=NC(=NC1C=1OC=CC1)N)NCCNC1=CC=CC=C1 | C16H16BrN5O
